US06489354B1
1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-hydroxyethylpyrrolidine
To a solution of 0.63 g (2.15 mmol) of 3-(RS)-(4-(4-fluorophenyl) piperidinylmethyl)-4-(SR)-hydroxyethylpyrrolidine and 0.6 mL (4.3 mmol) of Et3N in 20 mL of CH2Cl2 at 0° C. was added 0.32 mL (2.15 mmol) of 2-naphthoyl chloride and the reaction mixture was stirred for 1.2 h. To the reaction mixture was added 0.5 mL of MeOH and the reaction mixture was stirred 18 h at rt. The reaction mixture was concentrated and the residue was purified by chromatography (silica, acetone: hexanes, 1:2 to 1:1) to give 0.63 g of the title compound.

reactant | 3-(RS)-(4-(4-fluorophenyl) piperidinylmethyl)-4-(SR)-hydroxyethylpyrrolidine | 2.15 mmol, 0.63 g | FC1=CC=C(C=C1)C1CCN(CC1)CC1CNCC1CCO | C18H27FN2O
reactant | Et3N | 4.3 mmol, 0.6 mL | CCN(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 2.15 mmol, 0.32 mL | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | MeOH | 0.5 mL | CO | CH4O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-hydroxyethylpyrrolidine | 0.63 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)CCO)CN1CCC(CC1)C1=CC=C(C=C1)F | C29H33FN2O2
